US06949579B2
5.11 g of bis(pinacolato)diborane, 277 mg of bis(dibenzylideneacetone)palladium, then 2.48 g of potassium acetate and finally 330 mg of tricyclohexylphosphine are added to 7.5 g of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 58, in 225 cm3 of dioxane. The medium is refluxed for 18 hours and the resulting mixture is then allowed to return to room temperature and 100 cm3 of ethyl acetate and 100 cm3 of water are added. The organic phase is separated out after settling of the phases has taken place, washed with 100 cm3 of water, with 100 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2 kPa; 45° C.) to give 11.2 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 6.16 g of N-[6-chloro-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of an orange-coloured oil. The product is used directly.

reactant | bis(pinacolato)diborane | 5.11 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.48 g | C(C)(=O)[O-].[K+]
reactant | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 7.5 g | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 225 cm3 | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 277 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tricyclohexylphosphine | 330 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | water | 100 cm3 | O | H2O
product | N-[6-chloro-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 6.16 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)B1OC(C(O1)(C)C)(C)C | C23H37BClN3O4Si
